US06426345B1
To a mixture of 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (192 mg) and triethylamine (0.12 ml) in 1,4-dioxane (4 ml) was added isopropyl chloroformate (0.10 ml). The mixture was stirred at room temperature for 30 minutes, then poured into aqueous sodium bicarbonate and extracted with ethyl acetate twice. The combined organic phase was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with methanol to give 2-benzyl-4-(3-isopropoxycarbonylaminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (167 mg).

reactant | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 192 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | isopropyl chloroformate | 0.10 ml | ClC(=O)OC(C)C | C4H7ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 2-benzyl-4-(3-isopropoxycarbonylaminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 167 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)OC(C)C)N=CC=C2 | C24H22N4O3
